US07138406B2
(6S,7R,4bR,8aR)-4b-Ethyl-6,7-dihydroxy-7-prop-1-ynyl-4b,5,6,7,8,8a,9,10-octahydro-phenanthrene-2-carboxylic acid (2-methylpyridin-3-ylmethyl)amide
To a solution of (6S,7R,4bR,8aR)-4b-ethyl-6,7-dihydroxy-7-prop-1-ynyl-4b,5,6,7,8,8a,9,10-octahydro-phenanthrene-2-carboxylic acid (20 mg, 0.061 mmol) in tetrahydrofuran (2 mL) was added sequentially diisopropylethylamine (0.042 mL, 0.24 mmol), 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide (14 mg, 0.073 mmol), 1-hydroxybenzotriazole (9 mg, 0.064 mmol) and C-(2-methylpyridin-3-yl)-methylamine (0.025 mL, approximately 0.2 mmol). The mixture was stirred at room temperature for 1 day and was then quenched with saturated aqueous ammonium chloride solution. After extracting twice with ethyl acetate, the combined organic layers were washed with brine, dried (MgSO4) and concentrated under vacuum. The title compound (10 mg, 38%) was isolated by flash chromatography eluting with 50% acetone in methylene chloride. Mass spectrum: m/e 433 (M+1).

reactant | (6S,7R,4bR,8aR)-4b-ethyl-6,7-dihydroxy-7-prop-1-ynyl-4b,5,6,7,8,8a,9,10-octahydro-phenanthrene-2-carboxylic acid | 0.061 mmol, 20 mg | C(C)[C@@]12C=3C=CC(=CC3CC[C@@H]2C[C@]([C@H](C1)O)(C#CC)O)C(=O)O | C20H24O4
reactant | diisopropylethylamine | 0.24 mmol, 0.042 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide | 0.073 mmol, 14 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.064 mmol, 9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | C-(2-methylpyridin-3-yl)-methylamine | approximately 0.2 mmol, 0.025 mL | CC1=NC=CC=C1CN | C7H10N2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (6S,7R,4bR,8aR)-4b-Ethyl-6,7-dihydroxy-7-prop-1-ynyl-4b,5,6,7,8,8a,9,10-octahydro-phenanthrene-2-carboxylic acid (2-methylpyridin-3-ylmethyl)amide | 10 mg, 38% | CC1=NC=CC=C1CNC(=O)C1=CC=2CC[C@@H]3C[C@]([C@H](C[C@]3(C2C=C1)CC)O)(C#CC)O | C27H32N2O3
